data/oMe_Silver.jsonl
{"reaction_id": "NR-214_1-c3ccc(C(F)(F)F)cc3","level": "medium","name": "Payne Rearrangement","reactants_smiles": ["C12C(CCCC1(c3ccc(C(F)(F)F)cc3)O)O2"],"products_smiles": ["C12C(CCCC1(c3ccc(C(F)(F)F)cc3)O2)O"],"conditions": "Acid-catalyzed","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(c3ccc(C(F)(F)F)cc3)O)[OH+]2","step_weight": 0,"rationale": "Protonation of the epoxide oxygen by acid increases the electrophilicity of the adjacent carbons through inductive withdrawal, making them more susceptible to nucleophilic attack."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C12C(CCCC1(c3ccc(C(F)(F)F)cc3)[OH+]2)O","step_weight": 0,"rationale": "The neighboring hydroxyl oxygen attacks the more substituted, proton-activated epoxide carbon, driven by intramolecular proximity and relief of ring strain, forming a new epoxide ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C12C(CCCC1(c3ccc(C(F)(F)F)cc3)O2)O","step_weight": 0,"rationale": "Deprotonation restores the neutral epoxy alcohol, favored by the stability of the product and removal of positive charge under acidic equilibrium conditions."}],"description": "Under acidic conditions, the epoxide oxygen is protonated to increase electrophilicity. The adjacent hydroxyl group then intramolecularly attacks, opening the ring and forming a new epoxide via rearrangement. Final deprotonation restores neutrality, yielding the rearranged epoxy alcohol."}
{"reaction_id": "NR-052_1-CC_2-C_3-CCCC(C)C","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC)(C)(CCCC(C)C)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC)(C)(CCCC(C)C)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(C)(CCCC(C)C)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
